US05275756
3) Synthesis of (S)-3-Fluoroheptyl Methanesulfonate
To a 100 ml flask were added 8.7 g of (S)-3-fluoroheptanol and 21.5 g of pyridine in a nitrogen stream, and the solution was kept at 5° to 10° C. To the solution was added dropwise 7.5 g of methanesulfonyl chloride over 30 minutes, followed by stirring at 15° C. or less for 5 hours. The reaction mixture was poured into 200 ml of ice-water and extracted with ethyl acetate. The organic layer was washed successively with a diluted hydrochloric aqueous solution and water, dried over magnesium sulfate, and freed of the solvent by distillation at 30° C. or lower to obtain 12.7 g (93.18%) of the titled compound.

reactant | (S)-3-fluoroheptanol | 8.7 g | F[C@H](CCO)CCCC | C7H15FO
reactant | methanesulfonyl chloride | 7.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 21.5 g | N1=CC=CC=C1 | C5H5N
product | (S)-3-Fluoroheptyl Methanesulfonate | 12.7 g, 93.18% | CS(=O)(=O)OCC[C@H](CCCC)F | C8H17FO3S
